US09062092B2
Compound 50f. 3-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-tetrahydro-pyran-3-carboxylic acid
A solution of (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (600 mg, 1.122 mmol), 3-vinyl-tetrahydro-pyran-3-carboxylic acid (175.3 mg, 1.122 mmol), tri(o-tolyl)phosphine (68.3 mg, 0.224 mmol) and triethylamine (0.47 mL, 3.366 mmol) in 1,4-dioxane (15 mL) was degassed by bubbling nitrogen through for 5 minutes then warmed to 50° C. and treated with tris(dibenzylideneacetone)dipalladium(0) (102.7 mg, 0.112 mmol). After stirring at 100° C. for 45 minutes the reaction was cooled to room temperature, filtered through a pad of Celite, which was rinsed with ethyl acetate. The volatiles were removed in vacuo to provide crude title compound as an orange foam that was used without further purification. LCMS (m/z) 610.2 [M+H], Tr=1.97 min.

reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 1.122 mmol, 600 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O | C24H32BrN5O4
reactant | 3-vinyl-tetrahydro-pyran-3-carboxylic acid | 1.122 mmol, 175.3 mg | C(=C)C1(COCCC1)C(=O)O | C8H12O3
reactant | tri(o-tolyl)phosphine | 0.224 mmol, 68.3 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 3.366 mmol, 0.47 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.112 mmol, 102.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-((E)-2-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-vinyl)-tetrahydro-pyran-3-carboxylic acid | O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(COCCC1)C(=O)O)C)C(C)C | C32H43N5O7
